US05380726
Analogously to Example 1, 1-{4-[N-(2-isopropoxyethyl)-N-chloroacetylamino]-benzoyl}-4-[2-(4-chlorophenyl)-ethyl]-piperazine hydrochloride is reacted with cysteamine (=2-mercaptoethylamine), yielding 1-{4-[N-(2-isopropoxyethyl)-N-(2-aminoethylmercapto-acetyl)-amino]-benzoyl}-4-[2-(4-chlorophenyl)-ethyl]-piperazine.

reactant | 1-{4-[N-(2-isopropoxyethyl)-N-chloroacetylamino]-benzoyl}-4-[2-(4-chlorophenyl)-ethyl]-piperazine hydrochloride | Cl.C(C)(C)OCCN(C(CCl)=O)C1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1
reactant | cysteamine | NCCS | C2H7NS
product | 1-{4-[N-(2-isopropoxyethyl)-N-(2-aminoethylmercapto-acetyl)-amino]-benzoyl}-4-[2-(4-chlorophenyl)-ethyl]-piperazine | C(C)(C)OCCN(C(CSCCN)=O)C1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C28H39ClN4O3S
